US07807701B2
a) N-cyclopentylmethyl-N-{6-[[3,5-bis(trifluoromethyl)benzylamino]methyl]indan-5-yl}-ethylamine
To a solution (20 ml) of 6-(N-cyclopentylmethyl-N-ethylamino)indane-5-carbaldehyde (1.09 g) and 3,5-bis(trifluoromethyl)benzylamine (1.26 g) in dichloromethane was added sodium triacetoxyborohydride (1.70 g) with stirring at room temperature. The reaction solution was stirred overnight. The reaction solution was washed successively with saturated aqueous sodium hydrogen carbonate, water and saturated brine, and the organic layer was dried over sodium sulfate. Sodium sulfate was filtered off and the filtrate was concentrated. The obtained residue was purified by column chromatography (n-hexane:ethyl acetate=6:1) to give the title compound (1.65 g, 83%).

reactant | 6-(N-cyclopentylmethyl-N-ethylamino)indane-5-carbaldehyde | 20 ml, 1.09 g | C1(CCCC1)CN(CC)C1=C(C=C2CCCC2=C1)C=O | C18H25NO
reactant | 3,5-bis(trifluoromethyl)benzylamine | 1.26 g | FC(C=1C=C(CN)C=C(C1)C(F)(F)F)(F)F | C9H7F6N
reactant | sodium triacetoxyborohydride | 1.70 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-cyclopentylmethyl-N-{6-[[3,5-bis(trifluoromethyl)benzylamino]methyl]indan-5-yl}-ethylamine | 1.65 g, 83% | C1(CCCC1)CN(C=1C=C2CCCC2=CC1CNCC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)CC | C27H32F6N2
